US04085268
A benzene solution (50 ml) of 5-phenyl-3-butyl allophanoyl chloride (0.1 mole) was prepared by reaction of phosgene with 1-phenyl-3-butyl urea by the method of Example 2. This solution was added dropwise to 16.0 g of potassium cyanate in 300 ml of anhydrous DMF as described in Example 3. After similar work-up, 17.0 g (70% yield) of 3-phenyl-5-butyl isocyanuric acid was obtained; b.p. 172° C./.01 mm, m.p. 54°-56° C. IR and NMR analysis were consistent with the assigned structure.

reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1-phenyl-3-butyl urea | C1(=CC=CC=C1)NC(=O)NCCCC | C11H16N2O
reactant | potassium cyanate | 16.0 g | [O-]C#N.[K+]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 3-phenyl-5-butyl isocyanuric acid | 17.0 g, 70% yield | C1(=CC=CC=C1)N1C(NC(N(C1=O)CCCC)=O)=O | C13H15N3O3
